US05849759
Alternatively, to a mixture of 6-hydroxy-2-isopropyl-4-methoxybenzimidazole (3.44 g, 18 mmol), THF (50 mL) and H2O (50 mL) was added di-tert-butyldicarbonate (8.00 g, 37 mmol). The mixture was refluxed for 16 hours. Afterwards, the reaction mixture was extracted with ethyl acetate (3×50 mL). The organic layers were washed with brine, dried (Na2SO4) and concentrated. Chromatography (SiO2, 100 g) of the resulting oil with hexane/ethyl acetate (1:1) afforded 1-tert-butoxycarbonyl-6-hydroxy-2-isopropyl-4-methoxybenzimidazole.

reactant | 6-hydroxy-2-isopropyl-4-methoxybenzimidazole | 18 mmol, 3.44 g | OC=1C=C(C2=C(N=C(N2)C(C)C)C1)OC | C11H14N2O2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | di-tert-butyldicarbonate | 37 mmol, 8.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 50 mL | O | H2O
product | 1-tert-butoxycarbonyl-6-hydroxy-2-isopropyl-4-methoxybenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2OC)O)C(C)C | C16H22N2O4
